US05948911
The reaction procedure as above wherein 3-nitrobenzylamine is reacted with 4-(4-chloro-6-methyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-[4-(3-nitrobenzylamino)-6-methyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester.

reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 4-(4-chloro-6-methyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)C)Cl)=O | C15H11ClN2O2S
product | 4-[4-(3-nitrobenzylamino)-6-methyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=CC=C2)[N+](=O)[O-])=O | C22H18N4O4S
